US07456175B2
2-(4-Cyclopentyl-piperazin-1-yl)-pyridin-4-ylamine
A mixture of 2.85 g (10 mmol) 1-cyclopentyl-4-(4-nitro-pyridin-2-yl)-piperazine and 0.285 g Pd/C (10%) in 25 ml methanol was treated with 1 bar hydrogen at room temperature for 3 h. After filtration the mixture was evaporated to dryness to yield 2.34 g (92%) of the title compound as brownish solid. (m/e): 247.4 (MH+; 100%).

reactant | 1-cyclopentyl-4-(4-nitro-pyridin-2-yl)-piperazine | 10 mmol, 2.85 g | C1(CCCC1)N1CCN(CC1)C1=NC=CC(=C1)[N+](=O)[O-] | C14H20N4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 25 ml | CO | CH4O
catalyst | Pd/C | 0.285 g | [Pd] | Pd
product | 2-(4-Cyclopentyl-piperazin-1-yl)-pyridin-4-ylamine | 2.34 g, 92% | C1(CCCC1)N1CCN(CC1)C1=NC=CC(=C1)N | C14H22N4
